US06235771B1
Under argon atmosphere, a mixture of methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.80 g), 4-ethoxyphenyl borate (0.44 g) and potassium carbonate (0.67 g) in toluene/ethanol/water (20/2/2 ml) was stirred at room temperature for 1 hour. To the mixture was added tetrakistriphenylphosphinepalladium (0.14 g), and the mixture was refluxed for 16 hours, cooled, extracted with ethyl acetate, washed with saturated brine, dried with magnesium sulfate and concentrated under reduced pressure. The resulting solid was recrystallized from ethyl acetate/hexane to give pale yellow crystals of methyl 7-(4-ethoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (739.5 mg).

reactant | methyl 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.80 g | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H11BrO4S
reactant | 4-ethoxyphenyl borate | 0.44 g | B(OC1=CC=C(C=C1)OCC)([O-])[O-]
reactant | potassium carbonate | 0.67 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol water | 2 ml | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakistriphenylphosphinepalladium | 0.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 7-(4-ethoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 739.5 mg | C(C)OC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C20H20O5S
